US08222417B2
To a solution of 4-hydroxy-3-nitrobenzotrifluoride (1.00 g) in tetrahydrofuran (20 ml), 10% palladium on activated carbon (100 mg) was added and stirred overnight under a hydrogen atmosphere at room temperature. After the reaction mixture was filtered through celite, the solvent was distilled off under reduced pressure to give 2-amino-4-(trifluoromethyl)phenol (780 mg) as a gray powder.

reactant | 4-hydroxy-3-nitrobenzotrifluoride | 1.00 g | OC1=C(C=C(C=C1)C(F)(F)F)[N+](=O)[O-] | C7H4F3NO3
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
catalyst | palladium on activated carbon | 100 mg | [Pd] | Pd
product | 2-amino-4-(trifluoromethyl)phenol | 780 mg | NC1=C(C=CC(=C1)C(F)(F)F)O | C7H6F3NO
